US08058276B2
Step 19.4: Hexanoic acid 6-hydroxy-pyrimidin-4-ylmethyl ester
The crude (6-hydroxy-pyrimidin-4-yl)-methanol is diluted with 60 ml CH2Cl2 and 20 ml pyridine. Then 9.3 ml (40 mMol) caproic anhydride and 49 mg DMAP are added and the suspension is stirred for 1 h at rt. The reaction mixture is diluted with water and EtOAc, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed 3 times with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; CH2Cl2/EtOH 19:1) gives after crystallization from CH2Cl2/hexane the title compound: m.p.: 133-134° C.; MS: [M+1]+=225.

reactant | (6-hydroxy-pyrimidin-4-yl)-methanol | OC1=CC(=NC=N1)CO | C5H6N2O2
reactant | caproic anhydride | 40 mMol, 9.3 ml | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 49 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Hexanoic acid 6-hydroxy-pyrimidin-4-ylmethyl ester | OC1=CC(=NC=N1)COC(CCCCC)=O | C11H16N2O3
